US08669234B2
To a mixture of 4-Bromo-benzylamine (2.00 g), Boc-L-proline (2.01 g), and 4-methylmorpholine (3.26 mL) in DMF (40 mL) was added HATU (3.48 g). Reaction mixture was stirred for 45 minutes, then concentrated, diluted with dichloromethane and washed with 10:1 H2O/saturated sodium bicarbonate solution. The aqueous layer was back-extracted with dichloromethane and the combined organic layers were dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 50 to 100% ethyl acetate/hexanes) to give 2-(4-Bromo-benzylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (3.38 g): LCMS-ESI+: calc'd for C17H24BrN2NaO3: 405.29 (M+Na+). Found: 405.0 (M+Na+).

reactant | 4-Bromo-benzylamine | 2.00 g | BrC1=CC=C(CN)C=C1 | C7H8BrN
reactant | Boc-L-proline | 2.01 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 4-methylmorpholine | 3.26 mL | CN1CCOCC1 | C5H11NO
reactant | HATU | 3.48 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-(4-Bromo-benzylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.38 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NCC1=CC=C(C=C1)Br)=O | C17H23BrN2O3
